US06727264B1
N-(3-{1-[5-(4-CHLOROPHENYL)-5-OXOPENTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure K and Scheme B1 (K2CO3) using 1-(4-chlorophenyl)-5-chloro-1-pentanone and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 441.1 (M+H)+.

reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(4-chlorophenyl)-5-chloro-1-pentanone | ClC1=CC=C(C=C1)C(CCCCCl)=O | C11H12Cl2O
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[5-(4-CHLOROPHENYL)-5-OXOPENTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | ClC1=CC=C(C=C1)C(CCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)=O | C26H33ClN2O2
